US05665748
To a solution of 5-iodo-2-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]pyridine (2.5 g) in tetrahydrofuran (40 ml) was added dropwise, at -65° C. under nitrogen streams, a hexane solution of n-butyllithium (1.6M, 4.61 ml). The mixture was stirred for 15 minutes at the same temperature, to which was added dropwise N,N-dimethylformamide (0.71 ml). The cooling bath was removed, then the reaction mixture was stirred for further 30 minutes, to which was added a saturated aqueous solution of ammonium chloride (6 ml). The reaction mixture was poured into water, followed by extraction with ethyl acetate. The ethyl acetate was washed with water and dried (MgSO4), then the solvent was distilled off under reduced pressure to leave 5-formyl-2-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]pyridine (1.5 g, 79%). Recrystallization from ethyl acetate--hexane gave colorless crystals, m.p.99°-100° C.

reactant | 5-iodo-2-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]pyridine | 2.5 g | IC=1C=CC(=NC1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C17H15IN2O2
reactant | hexane | CCCCCC | C6H14
reactant | n-butyllithium | 1.6M, 4.61 ml | C(CCC)[Li]
reactant | N,N-dimethylformamide | 0.71 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 5-formyl-2-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]pyridine | 1.5 g, 79% | C(=O)C=1C=CC(=NC1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C18H16N2O3
